US04692448
A mixture of 3-[4-(4-chlorobenzyl)homopiperazin-1-yl]-propanethiol (4.0 g) and 2N sodium hydroxide (50 ml) is stirred at room temperature for 8 days. The product is extracted with ether, dried, and concentrated to give a yellow oil, which is purified on a silica gel column (methylene chloride:methanol, 95:5). The resulting yellow oil (1.5 g) is dissolved in ether and the salt precipitated with ethereal hydrochloric acid. Recrystallization from ethanol provided 1,1'-(dithiodi-3,1-propanediyl)bis[4-(4-chlorobenzyl) homopiperizine] tetrahydrochloride as a white crystalline solid, m.p. >170° (dec.).

reactant | 3-[4-(4-chlorobenzyl)homopiperazin-1-yl]-propanethiol | 4.0 g | ClC1=CC=C(CN2CCN(CCC2)CCCS)C=C1 | C15H23ClN2S
solvent | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
product | 1,1'-(dithiodi-3,1-propanediyl)bis[4-(4-chlorobenzyl) homopiperizine] tetrahydrochloride | Cl.Cl.Cl.Cl.C(CCSSCCCN1CCN(CCC1)CC1=CC=C(C=C1)Cl)N1CCN(CCC1)CC1=CC=C(C=C1)Cl | InChI=1S/C30H44Cl2N4S2.4ClH/c31-29-9-5-27(6-10-29)25-35-15-1-13-33(19-21-35)17-3-23-37-38-24-4-18-34-14-2-16-36(22-20-34)26-28-7-11-30(32)12-8-28;;;;/h5-12H,1-4,13-26H2;4*1H
